US04228100
Reaction of THPC (19.06 g, 0.1 mol) with 1,3-dimethylurea (26.44 g, 0.3 mol) in toluene (75 ml), following Example 19, gave 25.85 g (67.5%) of 5,5-bis(1,3-dimethylureidomethyl)-1,3-dimethyl-2-oxo-1,3-diaza-5-phosphoniacyclohexane chloride (IV, R=R'=CH3, X=Cl) as a white, crystalline solid, mp 191°-192.5° C. dec. The remainder (11.89 g) was a viscous yellow oil. Two recrystallizations from 2-propanol (5 ml/g), followed by thorough drying in a vacuum at 100° C., gave pure product, mp 196°-197° C. dec.

reactant | THPC | 0.1 mol, 19.06 g | C(O)[P+](CO)(CO)CO.[Cl-]
reactant | 1,3-dimethylurea | 0.3 mol, 26.44 g | CNC(=O)NC | C3H8N2O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 5,5-bis(1,3-dimethylureidomethyl)-1,3-dimethyl-2-oxo-1,3-diaza-5-phosphoniacyclohexane chloride | 25.85 g, 67.5% | [Cl-].CN(C(=O)NC)C[P+]1(CN(C(N(C1)C)=O)C)CN(C(=O)NC)C | InChI=1S/C13H27N6O3P.ClH/c1-14-11(20)16(3)7-23(8-17(4)12(21)15-2)9-18(5)13(22)19(6)10-23;/h7-10H2,1-6H3,(H-,14,15,20,21);1H
